US06881737B2
Based on G. W. Gribble, et al., Synthesis, 1975, 650-652, 6-methoxyquinoline (1.26 g, 7.9 mmol) was dissolved in glacial acetic acid (20 mL) under N2 at RT. Solid NaCNBH3 (2 g, 32 mmol) was added in small portions over a 45 min period. The reaction was heated to 50° C. for 8 h, then cooled to RT and stirred overnight. The reaction was quenched by cooling it to 0° C., and the pH of the solution was adjusted to 14 with 2 N NaOH. The solution was extracted 3 times with EtOAc. The EtOAc extracts were washed brine, combined, dried over Na2SO4, filtered, and concentrated, then eluted through a 17×2.5 cm column of silica gel (5% and 10% EtOAc/Hexane step gradient) giving 6-methoxy-1,2,3,4-tetrahydroquinoline as a red oil. This material was used without further purification.

reactant | 6-methoxyquinoline | 7.9 mmol, 1.26 g | COC=1C=C2C=CC=NC2=CC1 | C10H9NO
reactant | NaCNBH3 | 32 mmol, 2 g | [BH3-]C#N.[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 6-methoxy-1,2,3,4-tetrahydroquinoline | COC=1C=C2CCCNC2=CC1 | C10H13NO
